US08865739B2
To a solution of N′-(2-(4-chlorophenyl)-2-methylpropanoyl)-3-oxobutanehydrazide (1.77 g, 6.0 mmol) in ethanol (15 ml) was added 2-aminoacetophenone (0.61 ml, 5.0 mmol) followed by ytterbium triflate (310 mg, 0.5 mmol). The mixture was heated at 70° C. for 12 hours, cooled to room temperature, and the ethanol was removed under reduced pressure. The crude residue was dissolved in ethyl acetate, poured into a separatory funnel, and washed with water (2×), saturated sodium bicarbonate, and brine. The organic phase was separated, and solvent removed under reduced pressure, to provide a viscous oil, which solidified upon the addition of ethyl ether. The solid was filtered off and washed with diethyl ether, to provide N′-(2-(4-chlorophenyl)-2-methylpropanoyl)-2,4-dimethylquinoline-3-carbohydrazide (1.8 g, 91%) as a light yellow powder. TLC Rf=0.44 using 100% ethyl acetate eluent on a glass backed silica gel plate.

reactant | N′-(2-(4-chlorophenyl)-2-methylpropanoyl)-3-oxobutanehydrazide | 6.0 mmol, 1.77 g | ClC1=CC=C(C=C1)C(C(=O)NNC(CC(C)=O)=O)(C)C | C14H17ClN2O3
reactant | 2-aminoacetophenone | 5.0 mmol, 0.61 ml | NCC(=O)C1=CC=CC=C1 | C8H9NO
reactant | ytterbium triflate | 0.5 mmol, 310 mg | [O-]S(=O)(=O)C(F)(F)F.[Yb+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | N′-(2-(4-chlorophenyl)-2-methylpropanoyl)-2,4-dimethylquinoline-3-carbohydrazide | 1.8 g, 91% | ClC1=CC=C(C=C1)C(C(=O)NNC(=O)C=1C(=NC2=CC=CC=C2C1C)C)(C)C | C22H22ClN3O2
